US05492929
To a solution of γ-phenyl acetoacetic acid ethyl ester (2.88 g) in a mixture of acetic acid (30 ml) and water (10 ml) were added sodium acetate (1.83 g) and 1-(4-chlorophenyl)-1-methyl hydrazine hydrochloride (2.73 g) {prepared from 4-chloro-N-methyl-N-nitroso aniline by subjecting to reduction with zinc powder in a mixture of acetic acid and water [m.p.171°-174° C.; NMR (200 MHz, DMSO-d6) ppm: 3.14(3H,s), 7.20(2H,d,J=9 Hz), 7.29(2H,d,J=9 Hz)]}. The mixture was stirred for 15 minutes at room temperature, then for 20 minutes at 110° C. The reaction mixture was concentrated, which was dissolved in ethyl acetate. The solution was washed with water, dilute hydrochloric acid, water, an aqueous solution of sodium hydrogencarbonate and water, successively, which was then dried, followed by distilling off the solvent. The residue was purified by means of a silica gel (30 g) column chromatography (hexane-ethyl acetate=4:1) to give ethyl ester of 5-chloro-1-methyl-3-phenylindole-2-acetic acid as an oily substance (4.34 g). [NMR (200 MHz, CDCl3) ppm: 10 1.29(3H,t,J=7 Hz), 3.76(3H,s), 3.86(2H,s), 4.24(2H,q,J=7 Hz), 7.17-7.62(8H,m)]

reactant | γ-phenyl acetoacetic acid ethyl ester | 2.88 g | C(C)OC(CC(=O)CC1=CC=CC=C1)=O | C12H14O3
reactant | sodium acetate | 1.83 g | C(C)(=O)[O-].[Na+]
reactant | 1-(4-chlorophenyl)-1-methyl hydrazine hydrochloride | 2.73 g | Cl.ClC1=CC=C(C=C1)N(N)C
reactant | 4-chloro-N-methyl-N-nitroso aniline | ClC1=CC=C(N(N=O)C)C=C1 | C7H7ClN2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
catalyst | zinc | [Zn] | Zn
product | 5-chloro-1-methyl-3-phenylindole-2-acetic acid | ClC=1C=C2C(=C(N(C2=CC1)C)CC(=O)O)C1=CC=CC=C1 | C17H14ClNO2
